US07968556B2
SYNTHESIS OF 8-OXO-9-PHENYL-2-(PYRIDIN-2-YL)-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE
(Z)-1-(2-Amino-1,2-dicyanovinyl)-3-phenylurea. Phenyl isocyanate (0.700 g, 5.88 mmol) and 2,3-diaminomaleonitrile (0.600 g, 5.55 mmol) were reacted in acetonitrile according to General Procedure A. The material was triturated from acetonitrile and diethyl ether. The resultant solid was filtered and dried to give the title compound as an orange solid (0.95 g, 4.2 mmol, 76% yield) which was used directly in the next step.

reactant | (Z)-1-(2-Amino-1,2-dicyanovinyl)-3-phenylurea | N\C(=C(\C#N)/NC(=O)NC1=CC=CC=C1)\C#N | C11H9N5O
reactant | Phenyl isocyanate | 5.88 mmol, 0.700 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2,3-diaminomaleonitrile | 5.55 mmol, 0.600 g | N/C(/C#N)=C(/C#N)\N | C4H4N4
reactant | acetonitrile | C(C)#N | C2H3N
product | 8-OXO-9-PHENYL-2-(PYRIDIN-2-YL)-8,9-DIHYDRO-7H-PURINE-6-CARBOXAMIDE | 4.2 mmol, 0.95 g, 76% yield | O=C1N(C2=NC(=NC(=C2N1)C(=O)N)C1=NC=CC=C1)C1=CC=CC=C1 | C17H12N6O2
